US05034417
A solution of 3'-chloro-4'-nitroacetophenone (3 g), ethylene glycol (9.3 g), and p-toluenesulfonic acid monohydrate (0.5 g) in toluene (30 ml) was refluxed for 6 hours. Water formed in the reaction was removed by means of Dean Stark apparatus. The reaction mixture was washed with an aqueous solution of sodium bicarbonate, dried over magnesium sulfate, and concentrated to give an oil of 2-(3-chloro-4-nitrophenyl)-2-methyl-1,3-dioxolane (3.9 g).

reactant | 3'-chloro-4'-nitroacetophenone | 3 g | ClC=1C=C(C=CC1[N+](=O)[O-])C(C)=O | C8H6ClNO3
reactant | ethylene glycol | 9.3 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Water | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-chloro-4-nitrophenyl)-2-methyl-1,3-dioxolane | 3.9 g | ClC=1C=C(C=CC1[N+](=O)[O-])C1(OCCO1)C | C10H10ClNO4
